US08293768B2
Synthesis of 4-methyl-2-(2-oxo-3-((tetrahydro-2H-pyran-2-yl)methyl)imidazolidin-1-yl)-N-(pyridin-3-ylmethyl)thiazole-5-carboxamide
Following the procedure as describe in Example 9, making variations as required to replace 2-(3-benzyl-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid with 4-methyl-2-(2-oxo-3-((tetrahydro-2H-pyran-2-yl)methyl)imidazolidin-1-yl)thiazole-5-carboxylic acid to react with 3-(aminomethyl)pyridine, the title compound was obtained as a white powder in 40% yield: mp 174-175° C. (ethyl acetate/hexanes); 1H NMR (300 MHz, CDCl3) 8.51-8.40 (m, 2H), 7.61-7.59 (m, 1H), 7.20-7.14 (m, 1H), 6.58 (br s, 1H), 4.53 (s, 2H), 4.06-3.86 (m, 3H), 3.74-3.58 (m, 2H), 3.44-3.29 (m, 3H), 3.17-3.09 (m, 1H), 2.52 (s, 3H), 1.79-1.74 (m, 1H), 1.51-1.32 (m, 4H), 1.27-1.14 (m, 1H); 13C NMR (75 MHz, CDCl3) δ 162.7, 157.5, 155.5, 153.4, 149.2, 148.7, 135.5, 134.1, 123.5, 116.7, 76.6, 68.2, 49.0, 44.0, 42.2, 41.2, 28.9, 25.6, 22.8, 17.2; MS (ES+) m/z 416.3 (M+1).

reactant | 2-(3-benzyl-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid | C(C1=CC=CC=C1)N1C(N(CC1)C=1SC(=C(N1)C)C(=O)O)=O | C15H15N3O3S
reactant | 4-methyl-2-(2-oxo-3-((tetrahydro-2H-pyran-2-yl)methyl)imidazolidin-1-yl)thiazole-5-carboxylic acid | CC=1N=C(SC1C(=O)O)N1C(N(CC1)CC1OCCCC1)=O | C14H19N3O4S
reactant | 3-(aminomethyl)pyridine | NCC=1C=NC=CC1 | C6H8N2
product | 4-methyl-2-(2-oxo-3-((tetrahydro-2H-pyran-2-yl)methyl)imidazolidin-1-yl)-N-(pyridin-3-ylmethyl)thiazole-5-carboxamide | 40% yield | CC=1N=C(SC1C(=O)NCC=1C=NC=CC1)N1C(N(CC1)CC1OCCCC1)=O | C20H25N5O3S
